US06969716B2
1-(3-Acetylphenyl)pyrrolidin-2-one (1.2 g, 5.9 mmol) was reacted with selenium dioxide (0.98 g, 8.9 mmol) using the method described in Example 1 to give crude oxo[3-(2-oxopyrrolidin-1-yl)phenyl]acetaldehyde as a yellow oil: m/z (ES+) 218.

reactant | 1-(3-Acetylphenyl)pyrrolidin-2-one | 5.9 mmol, 1.2 g | C(C)(=O)C=1C=C(C=CC1)N1C(CCC1)=O | C12H13NO2
reactant | selenium dioxide | 8.9 mmol, 0.98 g | [Se](=O)=O | O2Se
product | oxo[3-(2-oxopyrrolidin-1-yl)phenyl]acetaldehyde | O=C(C=O)C1=CC(=CC=C1)N1C(CCC1)=O | C12H11NO3
